US04686292
1-(5-Amino-2-methoxy-4-nitrobenzoyl)pyrrolidine
To a solution of 4.24 g of 5-amino-2-methoxy-4-nitrobenzoic acid in 30 ml of N,N-dimethylformamide was added 3.24 g of N,N'-carbonyldiimidazole at room temperature. After 30 minutes, 5 ml of pyrrolidine was added, and the mixture was stirred for 2 hours. The solvent was evaporated under reduced pressure, and the residue was recrystallized from ethyl acetate to give the title compound, m.p. 159°-162° C., yield of 4.16 g.

reactant | 5-amino-2-methoxy-4-nitrobenzoic acid | 4.24 g | NC=1C(=CC(=C(C(=O)O)C1)OC)[N+](=O)[O-] | C8H8N2O5
reactant | pyrrolidine | 5 ml | N1CCCC1 | C4H9N
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(5-Amino-2-methoxy-4-nitrobenzoyl)pyrrolidine | NC=1C(=CC(=C(C(=O)N2CCCC2)C1)OC)[N+](=O)[O-] | C12H15N3O4
